US08058431B2
7) 3-Methyl-2-(1-methyl-2-phenyl-1H-thieno(3,2-d)pyrimidin-4-ylidenemethyl)-benzothiazol-3-ium iodide
200 mg (0.50 mmol) 1-Methyl-4-methylsulfanyl-2-phenyl-thieno(3,2-d)pyrimidin-1-ium iodide and 145 mg (0.50 mmol) 2,3-dimethyl-benzothiazol-3-ium iodide were dissolved in 2.0 ml dimethylformamide and 202 mg (0.28 ml, 2.00 mmol) triethylamine were added. The green solution was stirred for 1 h at 80° C., filtrated and the residue was washed with methanol. The crude product was purified further by HPLC.

reactant | 1-Methyl-4-methylsulfanyl-2-phenyl-thieno(3,2-d)pyrimidin-1-ium iodide | 0.50 mmol, 200 mg | [I-].C[N+]1=C(N=C(C2=C1C=CS2)SC)C2=CC=CC=C2
reactant | 2,3-dimethyl-benzothiazol-3-ium iodide | 0.50 mmol, 145 mg | [I-].CC=1SC2=C([N+]1C)C=CC=C2
reactant | triethylamine | 2.00 mmol, 0.28 ml, 202 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-2-(1-methyl-2-phenyl-1H-thieno(3,2-d)pyrimidin-4-ylidenemethyl)-benzothiazol-3-ium iodide | [I-].C[N+]1=C(SC2=C1C=CC=C2)C=C2C1=C(N(C(=N2)C2=CC=CC=C2)C)C=CS1 | InChI=1S/C22H18N3S2.HI/c1-24-17-10-6-7-11-19(17)27-20(24)14-16-21-18(12-13-26-21)25(2)22(23-16)15-8-4-3-5-9-15;/h3-14H,1-2H3;1H/q+1;/p-1
